US08609687B2
8-(4-Methoxyphenyl)-N-(1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-yl)-[1,2,4]-triazolo[1,5-a]pyridin-2-amine
Made by following the procedure described for the preparation of (R)-1-(4-(8-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)-1H-pyrazol-1-yl)propan-2-ol with 1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-amine and making non-critical variations. 1H NMR (400 MHz, DMSO-d6) δ 9.31 (s, 1H), 8.64 (dd, J=6.6, 0.9 Hz, 1 H), 8.14 (d, J=8.9 Hz, 2 H), 7.87 (s, 1 H), 7.73 (m, 1 H), 7.50 (s, 1 H), 7.08 (d, J=8.9 Hz, 3 H), 4.35 (m, 1 H), 3.98 (dd, J=13.4, 10.9 Hz, 2 H), 3.83 (s, 3 H), 3.47 (m, 2 H), 1.93 (m, 4 H).

reactant | (R)-1-(4-(8-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)-1H-pyrazol-1-yl)propan-2-ol | COC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=NN(C2)C[C@@H](C)O | C19H20N6O2
reactant | 1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-amine | O1CCC(CC1)N1N=CC(=C1)N | C8H13N3O
product | 8-(4-Methoxyphenyl)-N-(1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-yl)-[1,2,4]-triazolo[1,5-a]pyridin-2-amine | COC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=NN(C2)C2CCOCC2 | C21H22N6O2
